US05994270
N-Hydroxy-N-(1-methylethyl)-2-(trimethylsilyl)benzo[b]-thiophene-3-carboxamide.
A mixture of 2-(trimethylsilyl)-3-benzothiophenecarboxylic acid (0.8 g, 3.2 mmol), made as in Example 14, and thionyl chloride (6 mL) was refluxed for 2 h. The excess thionyl chloride was removed under reduced pressure. The crude acid chloride was dissolved in 20 mL methylene chloride and added to a mixture of N-isopropylhydroxylamine hydrochloride (0.4 g, 3.6 mmol) and 4 g sodium bicarbonate in 20 mL methylene chloride and 20 mL water at 0° C. The resulting mixture was stirred at RT for 2 h. The organic layer was separated, washed with brine, dried, and concentrated in vacuo. The crude product was chromatographed on a silica gel column with 10% ethyl acetate/hexane to give 0.65 g of the title compound as a yellow solid, a 66.1% yield. m.p. 115-118° C.

reactant | 2-(trimethylsilyl)-3-benzothiophenecarboxylic acid | 3.2 mmol, 0.8 g | C[Si](C=1SC2=C(C1C(=O)O)C=CC=C2)(C)C | C12H14O2SSi
reactant | thionyl chloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-isopropylhydroxylamine hydrochloride | 3.6 mmol, 0.4 g | Cl.C(C)(C)NO
reactant | sodium bicarbonate | 4 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-Hydroxy-N-(1-methylethyl)-2-(trimethylsilyl)benzo[b]-thiophene-3-carboxamide | 0.65 g, 66.1% yield | ON(C(=O)C=1C2=C(SC1[Si](C)(C)C)C=CC=C2)C(C)C | C15H21NO2SSi
